US07491822B2
Acetonitrile (20 ml) was added to 2-methyl-4-hydroxymethylene-5-oxazolone sodium salt (1.00 g, 6.71 mmol) and O-methylisourea hydrochloride (0.74 g, 6.71 mmol), and the mixture was stirred at 80° C. for 2 days. The mixture was concentrated, and methanol (5 ml) and water (3 ml) were added. The mixture was stirred at room temperature for 1 hour. Then, the precipitate was collected by filtration and vacuum dried to give 2-methoxy-6-oxo-5-acetylamino-1,6-dihydropyrimidine (0.91 g, 4.97 mmol).

reactant | 2-methyl-4-hydroxymethylene-5-oxazolone sodium salt | 6.71 mmol, 1.00 g | [Na].CC=1OC(C(N1)=CO)=O
reactant | O-methylisourea hydrochloride | 6.71 mmol, 0.74 g | Cl.COC(N)=N
solvent | Acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-methoxy-6-oxo-5-acetylamino-1,6-dihydropyrimidine | 4.97 mmol, 0.91 g | COC=1NC(C(=CN1)NC(C)=O)=O | C7H9N3O3
